US07148226B2
1-(4-{2-[2-Cyclopentyl-5-(6-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4,6-dioxo-tetrahydro-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-cyclopropanecarbonitrile
A solution of 1-{4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile (568 mg, 1.54 mmol) in anhydrous MeOH (6.0 mL) was treated with 6-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (324 mg, 2.0 mmol), followed by borane-dimethylamine complex (118 mg, 2.0 mmol) at room temperature. The reaction was stirred for 1 hour before it was cooled to −10° C. for 2 hours. The precipitate was removed by filtration, and the filtrate was concentrated to an oil. The oil was purified by flash chromatography (50 g SiO2, 1:3->1:0 (93.5% ethyl acetate, 6% methanol, 0.5% acetic acid): (81.5% hexanes, 12% ethyl acetate, 6% methanol, 0.5% acetic acid)) to give the desired product as an oil. It was further purified by crystallization from ethyl acetate/hexanes to give a white powder (146 mg, 18%). 1H NMR (400 MHz, CDCl3) δ: 1.41–1.64 (m, 8 H), 1.84–1.88 (m, 2 H), 2.22–2.28 (m, 2 H), 2.42 (s, 3 H), 2.49–2.59 (m, 4 H), 2.65–2.74 (m, 3 H), 3.97–4.05 (m, 2 H), 6.72–6.82 (m, 2 H), 7.05–7.10 (m, 1 H), 8.55 (s, 1 H), 8.67 (s, 1 H).

reactant | 1-{4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile | 1.54 mmol, 568 mg | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C1(CC1)C#N)F | C22H24FNO3
reactant | 6-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 2.0 mmol, 324 mg | CC=1C=NC=2N(C1)N=C(N2)C=O | C7H6N4O
solvent | MeOH | 6.0 mL | CO | CH4O
product | 1-(4-{2-[2-Cyclopentyl-5-(6-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4,6-dioxo-tetrahydro-pyran-2-yl]-ethyl}-2-fluoro-phenyl)-cyclopropanecarbonitrile | C1(CCCC1)C1(OC(C(C(C1)=O)CC1=NN2C(N=CC(=C2)C)=N1)=O)CCC1=CC(=C(C=C1)C1(CC1)C#N)F | C29H30FN5O3
